US06800651B2
N-(4-(2-Cyanophenoxy)phenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine
Using the method of Example 342 using N-(4-(2-cyanophenoxy)phenyl)pyridin-3-ylmethylamine and 2,2,2-trifluoroethanesulfonyl chloride (Aldrich) and purifying via preparative HPLC eluting with 90:10 to 78:22 DCM/ethyl acetate gave the title compound. Anal Calcd for C21H16F3N3O3S.0.2H2O: C, 55.92; H, 3.67; N, 9.32. Found: C, 55.77; H, 3.51; N, 9.18. MS found 447.8 [M+H]+

reactant | N-(4-(2-cyanophenoxy)phenyl)pyridin-3-ylmethylamine | C(#N)C1=C(OC2=CC=C(C=C2)NCC=2C=NC=CC2)C=CC=C1 | C19H15N3O
reactant | 2,2,2-trifluoroethanesulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | N-(4-(2-Cyanophenoxy)phenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine | C(#N)C1=C(OC2=CC=C(C=C2)N(S(=O)(=O)CC(F)(F)F)CC=2C=NC=CC2)C=CC=C1 | C21H16F3N3O3S
